US09029560B2
Preparation of 1-[(2-isopropyl-4-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC84)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(2-isopropyl-4-methylphenyl)thiourea isolated as a white solid (0.077 g, 25%): 1H NMR (400 MHz, DMSO-d6) δ 11.85 (s, 1H), 10.10 (s, 1H), 9.42 (s, 1H), 8.15-8.05 (m, 2H), 8.04-7.96 (m, 2H), 7.61 (ddd, J=7.9, 2.0, 1.0 Hz, 2H), 7.49 (t, J=7.6 Hz, 1H), 7.39 (dt, J=7.7, 1.4 Hz, 1H), 7.23 (d, J=8.0 Hz, 1H), 7.16-7.11 (m, 1H), 7.05-6.96 (m, 2H), 3.46 (q, J=6.7 Hz, 2H), 2.91 (dt, J=17.9, 6.9 Hz, 3H), 2.30 (s, 3H), 1.14 (d, J=6.8 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 583 ([M+H]+), 581 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(2-isopropyl-4-methylphenyl)thiourea | C(C)(C)C1=C(C=CC(=C1)C)NC(=S)N | C11H16N2S
product | 1-[(2-isopropyl-4-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | C(C)(C)C1=C(C=CC(=C1)C)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C29H29F3N6O2S
